.subckt IFL A1 B1 C1 vss=100000 freq=50
vphaseA A 0 dc 0 ac 1 sin(0 {vss} {freq} 0 0 0)
vphaseB B 0 dc 0 ac 1 sin(0 {vss} {freq} 0 0 120)
vphaseC C 0 dc 0 ac 1 sin(0 {vss} {freq} 0 0 240)
* transmission line
rline1 A A1 0.01
rline2 B B1 0.01
rline3 C C1 0.01
.ends IFL
